* Generated by electronics_design from a KiCad schematic
* KICAD_SINGLETON_LABEL Fb1
.model D D
.model NMOS NMOS
.include "DAudioDriver_os.lib"
R15 0 out 2
C4 B+ N001 220p
R14 Vs Fb1 100k
V2 0 B- 103
C7 N003 0 100n
R6 B- N002 10
V1 B+ 0 103
R13 0 out 10k
D2 q1g Ho+ D
V5 Ain 0 SINE(0 1.9 1k) AC 1
D5 q2g Lo+ D
M1 B+ q1g Vs 0 NMOS
R3 q2g Lo+ 10
R10 Vs N001 10
R11 0 Fb2 1k
C5 out 0 680n
XU1 Ho+ Vs Lo+ B- Ain DAudioDriver freq=317k dtime=50n voutp=12 voutn=0
C6 out Fb2 4.4n
D3 B- out D
R12 N003 out 10
R9 q1g Ho+ 10
L1 Vs out 16u Rser=1m
D1 out B+ D
C1 Vs N002 220p
M2 Vs q2g B- 0 NMOS
.options chgtol=1e-11 abstol=1u
.tran 1
.backanno
.end
